US06921759B2
Step 1: Preparation of N-[4-fluoro-2-(methylthio)benzyl]-8-hydroxy-5-{methyl[(1-methyl-1H-imidazol-4-yl)sulfonyl]amino}-1,6-naphthyridine-7-carboxamide
A solution of methyl 8-hydroxy-5-{methyl[(1-methyl-1H-imidazol-4-yl) sulfonyl]amino}-1,6-naphthyridine-7-carboxylate. (0.14 g, 0.371 mmol) and 1-[4-fluoro-2-(methylthio)phenyl]methanamine (0.102 g, 0.594 mmol) in toluene (1 mL) were heated at 130 C in a sealed tube for 72 hr. The solvent was evaporated in vacuo. The residue was purified by preparative HPLC (Waters PrepPak Column, C18 eluting with 5-95% acetonitrile/water (0.1% TFA) at 100 ml/min) to afford the title compound after lyophilization.

reactant | methyl 8-hydroxy-5-{methyl[(1-methyl-1H-imidazol-4-yl) sulfonyl]amino}-1,6-naphthyridine-7-carboxylate | OC=1C(=NC(=C2C=CC=NC12)N(S(=O)(=O)C=1N=CN(C1)C)C)C(=O)OC | C15H15N5O5S
reactant | 1-[4-fluoro-2-(methylthio)phenyl]methanamine | 0.594 mmol, 0.102 g | FC1=CC(=C(C=C1)CN)SC | C8H10FNS
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-[4-fluoro-2-(methylthio)benzyl]-8-hydroxy-5-{methyl[(1-methyl-1H-imidazol-4-yl)sulfonyl]amino}-1,6-naphthyridine-7-carboxamide | FC1=CC(=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)N(S(=O)(=O)C=2N=CN(C2)C)C)C=C1)SC | C22H21FN6O4S2
